US06262219B1
1,1 -bis-(4-hydroxyphenyl)-3-methylcyclohexane.
2,2-bis-(4-hydroxyphenyl)-propane and 1,1-bis-(4-hydroxyphenyl)-3,3,5-trimethyl-cyclohexane are particularly preferred.

reactant | 2,2-bis-(4-hydroxyphenyl)-propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | 1,1-bis-(4-hydroxyphenyl)-3,3,5-trimethyl-cyclohexane | OC1=CC=C(C=C1)C1(CC(CC(C1)C)(C)C)C1=CC=C(C=C1)O | C21H26O2
product | 1,1 -bis-(4-hydroxyphenyl)-3-methylcyclohexane | OC1=CC=C(C=C1)C1(CC(CCC1)C)C1=CC=C(C=C1)O | C19H22O2
